Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
Fever, diffuse rash, R hand swelling
 
Major Surgical or Invasive Procedure:
*
 
History of Present Illness:
___ R handed, h/o ___ transferred from OSH with ___ day of 
fever and diffuse total body rash.  Ms. ___ first 
noticed redness and swelling in her distal R ___ finger in early 
___.  She was started on oral antibiotics but there was no 
improvement. She was subsequently referred to a spine surgeon 
(Dr. ___ who recommended plain film and MRI.  Although 
it took several weeks to obtain these studies, MRI on ___ 
revealed osteomyelitis of distal phalanx R ___ finger. Due to 
persistent symptoms, she was admitted to ___ on 
___.  She had a draining cyst over the radial aspect of her R 
MF DIP.  Cyst was cultured and probe came back with MRSA.  PICC 
line placed, and she was started on Vancomycin   
   She has been getting the Vancomycin at home reportedly at a 
dose of 1500 mg Q12h. She did not have initial troubles with the 
Vanco other than initial redness with the first few infusions. 
Over the past week, however, she described having recurrent 
headaches - which she temporally attributes to the vancomycin 
infusions.  These headaches were treated with Tylenol PRN.  2d 
PTA - on ___, she developed fevers and chills - with temp 
as high 103.2 degrees.  The following day (yesterday), she 
developed diffuse, pruritic MP rash.  She subsequently went to 
___ who transferred her here for further care.  
   Of note, throughout this protracted work up, she noticed 
several small pustules would develop over the affected area on 
the R MF. They would resolve on their own - and currently, her 
skin is completely intact, though it is erythematous, swollen, 
and tender to the touch.  
She denies sick contacts, new medications or had any recent 
travel.    
   In the ED, initial vital signs were: 100.6 71 100/63 18 96% 
RA
 - Exam notable for:  
 - Labs were notable for CRP 22.4, WBC 2.1 with 76% PMN and 1% 
Bands; K 3.1, lactate 0.8, INR 1.2
 - Studies performed include...  
 - Patient was given APAP 1g, 125mg IV methylprednisolone, 3g 
ampicillin-sulbactam, 25mg Benadryl, 20mg famotidine, 40mEq KCl  

 - Vitals on transfer:  102.0 93 120/63 19 98% RA
She was admitted for fever from drug rash, needs steroids, 
concern for SJS/TEN. 
   Hand surgery was consulted - concern that may be incorrect Dx 
of osteomyelitis, possible need for arthrocentesis. Recs 
admission ot medicine for futher workup. 
  Of note, she does have acrylic nails that she has painted on 
every 2 weeks but reports that he most recent manicure was a few 
weeks ago - and was actually after her osteomyelitis diagnosis, 
not before. No regular or close contact with health care 
workers.  

On ROS has no HA, neck stiffness, productive cough, no myalgias, 
no other joints involved. abd pain, no n/v/d. No urinary Sx. 
Denies facial edema, mucositis, skin tenderness, or blistering. 
Denies vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  A 10 pt review of sxs was otherwise 
negative.

 
Past Medical History:
# HTN/HLD
# GERD
# s/p Appy 
# Bladder suspension  
#  Mesh reinforcement to bladder suspension  
 
Social History:
___
Family History:
No notable history for infection, RA, SLE. Non-contributory

 
Physical Exam:
Vital Signs: 99.0  108/71  86  20  95% on RA  ___ pain 
glucose: 
. 
GEN: NAD, well-appearing, diffuse MP rash throughout body
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no clear evidence of mucositis, no 
exudates 
NECK: supple 
CV: RRR s1s2 nl, II/VI SEM at ___, no r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, no HSM  
EXT: warm, no c/c/e.  R distal ___ finger erythematous, swollen, 
focally over the DIP to the tip. minimally painful with 
palpation, limited ROM ___ stiff/edema. No breaks in the skin, 
no draining tracts. Scattered erythematous papules in the palmar 
aspect of ___ finger.
SKIN: diffuse maculopapular, morbilliform rash, confluent, 
plaquelike rash involving face, neck, torso, and upper thighs 
with sparing of palm, soles.  No blistering or pustules evident
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: L PICC line in place
FOLEY: absent

 
Pertinent Results:
LABS: SEE BELOW
(___): WBC 2.1 H/H 11.___.2  Plt 174 Gluc 94 BUN/Cr ___
N 76 B 1 L ___ M 1 Eos 1 Atyp 2 
 Na 138 K 3.1 Cl 105 HCO3 22  CRP 22.4
. 
OTHER DATA: 
# R finger X-ray (___): The finger is visualized from the mid 
metacarpal to the tuft. There it is moderate soft tissue 
swelling primarily surrounding the third DIP joint with erosive 
changes along the DIP joint. Periosteal reaction is noted along 
the mid middle phalanx. A 1 mm ossific density is seen along the 
anterior subcutaneous tissue at level of the mid middle phalanx. 
No fracture or dislocation. No radio-opaque foreign body is 
detected.  
IMPRESSION:  Findings suspicious for osteomyelitis of third DIP 
joint with moderate soft tissue swelling given the erosive 
changes. 

MRI R Finger
  
IMPRESSION:  
  
Focally pronounced marrow and soft tissue edema about the 
third/long/middle 
finger DIP joint, with marked joint space narrowing and 
destruction of the 
articular surface, in keeping with findings on the recent 
radiograph.  There 
is synovitis in the joint space consisting of enhancing 
synovium, but no fluid 
is seen within the joint or in the surrounding soft tissues to 
suggest an 
infected fluid collection.  The appearance is concerning for a 
septic 
arthritis, with surrounding osteomyelitis and soft tissue 
infection.  In the 
appropriate clinical setting, the differential diagnosis could 
include changes 
due to an inflammatory arthritis, such as psoriatic arthritis.  
Severe 
osteoarthritis, with chronic overuse, could give rise to similar 
appearance, 
but is considered less likely. 
  
Elsewhere, there are degenerative changes of the index, middle, 
ring, and 
small finger DIP joints as well as mild degenerative changes at 
the middle 
finger PIP joint. 
  
Subcutaneous edema and enhancement.  This could reflect 
non-specific edema, 
though the differential diagnosis includes cellulitis. 
  
3.5 mm heterogeneously high T2 enhancing focus in the third 
metacarpal head.  
This is of uncertain etiology, but is nonaggressive in 
appearance -- question 
small enchondroma or intraosseous vascular malformation.  
Consider followup 
radiograph in 6 months to confirm expected stability. 
  
  
  
RECOMMENDATION(S):  3.5 mm heterogeneously high T2 enhancing 
focus in the 
third metacarpal head.  This is of uncertain etiology, but is 
nonaggressive in 
appearance -- question small enchondroma or intraosseous 
vascular 
malformation. Consider followup radiograph in 6 months to 
confirm expected 
stability. 

___ ECHO
Conclusions   
 The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Normal left ventricular wall thickness, 
cavity size, and regional/global systolic function (biplane LVEF 
= 59 %). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve, but cannot 
be fully excluded due to suboptimal image quality. No mass or 
vegetation is seen on the mitral valve. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

 IMPRESSION: Normal study. No valvular pathology or pathologic 
flow identified. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function.   


 
Brief Hospital Course:
 ___ R handed, h/o ___ transferred from OSH with 1 day of 
fever and diffuse total body rash, found to have vancomycin drug 
eruption.

# Diffuse morbilliform, MP rash: likely drug exanthema from IV 
vancomycin.  No eosinophilia or LFT abnormalities (or other 
organ involvement) to suggest DRESS, although atypical for 
significant fever.  No mucosal involvement to suggest SJS/EM. 
Vancomycin was stopped and patient was started on prednisone 
60mg daily, triamcinolone cream, fexofenadine and hydroxyzine. 
Dermatology was consulted. They advise slow prednisone taper and 
agreed with diagnosis of drug rash from vanco.  

# R DIP swelling/redness, signs of phalanx osteomyelitis on MRI. 
 Unusual for minimal response to abx and absence of any injury 
or cut.  MRSA was reportedly grown from a pustule/cyst and not 
from the joint. Infectious disease and rheumatology were 
consulted. ID recommended transition to daptomycin and 
rheumatology did not find any evidence of joint disease. They 
recommended MRI of the finger which also showed osteomyelitis. 

The patient was evaluated by plastic/hand surgery. They 
recommended at least 6 weeks of antibiotics prior to operative 
debridement (if it is still not improving).

Of note, echocardiogram was obtained and it was normal.

Transitional issues:
- weekly CK's while on daptomycin. 
- needs MRI to follow up:
  3.5 mm heterogeneously high T2 enhancing focus in the 
third metacarpal head.  This is of uncertain etiology, but is 
nonaggressive in 
appearance -- question small enchondroma or intraosseous 
vascular 
malformation. Consider followup radiograph in 6 months to 
confirm expected 
stability. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN headache 
2. Vancomycin 1500 mg IV Q 12H 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN headache 
2. Daptomycin 450 mg IV Q24H 
RX *daptomycin [Cubicin] 500 mg 450 mg IV q24h Disp #*28 Vial 
Refills:*0
3. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*22 Capsule Refills:*0
4. Fexofenadine 180 mg PO DAILY 
RX *fexofenadine 180 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
5. HydrOXYzine 25 mg PO Q6H:PRN itching 
RX *hydroxyzine HCl 25 mg 1 tab by mouth q6hprn Disp #*30 Tablet 
Refills:*0
6. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID 
RX *triamcinolone acetonide 0.1 % apply to affected areas twice 
a day Refills:*0
7. PredniSONE 60 mg PO DAILY 
You will "taper" down on this medication slowly over two weeks. 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Drug rash
Osteomyelitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with a rash from vancomycin. You were seen by 
dermatology and infectious disease. You were switched to 
daptomycin to treat your finger infection, and dermatology 
recommended a slow steroid (prednisone) taper. 
 
Followup Instructions:
___